US04431576
A mixture of 2 ml of pyridine, 2.9 g of (1R,trans) 2,2-dimethyl-3-[(E)-3-oxo-1-butenyl]-cyclopropane-1-carboxylic acid chloride, 1 ml of ethanol and 25 ml of benzene was stirred at 0° to 5° C. for 20 minutes and at room temperature for 2 hours and was then poured into iced aqueous N/6 hydrochloric acid solution. The mixture was extracted with ether and the organic phase was washed with water, dried and evaporated to dryness at 40° C. under reduced pressure. The 4.19 g of oil residue were chromatographed over silica gel and eluted with a 7-3 cyclohexane-ethyl acetate mixture to obtain 1.43 g of ethyl (1R,trans) 2,2-dimethyl-3-[(E)-3-oxo-1-butenyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =+82°±3° (c=0.5% in benzene).

reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | (1R,trans) 2,2-dimethyl-3-[(E)-3-oxo-1-butenyl]-cyclopropane-1-carboxylic acid chloride | 2.9 g | CC1([C@@H]([C@H]1\C=C\C(C)=O)C(=O)Cl)C | C10H13ClO2
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | ethyl (1R,trans) 2,2-dimethyl-3-[(E)-3-oxo-1-butenyl]-cyclopropane-1-carboxylate | 1.43 g | CC1([C@@H]([C@H]1\C=C\C(C)=O)C(=O)OCC)C | C12H18O3
